US06528510B1
5-tert-Butyl-2-nitro-4-thiocyanato-phenylamine
The title compound was prepared according to the General Method 13 using 5-tert-butyl-2-nitro-phenylamine (prepared in Example PP-2; 170 g, 876 mmol), ammonium thiocyanate (400 g, 5260 mmol), bromine (140 g, 876 mmol), and MeOH (500 mL). The crude reaction mixture was purified by flash silica gel chromatography (5%-50% EtOAc in hexanes as eluents). MS(APCI): 252 (M+H).

reactant | 5-tert-butyl-2-nitro-phenylamine | 876 mmol, 170 g | C(C)(C)(C)C=1C=CC(=C(C1)N)[N+](=O)[O-] | C10H14N2O2
reactant | ammonium thiocyanate | 5260 mmol, 400 g | [S-]C#N.[NH4+]
reactant | bromine | 876 mmol, 140 g | BrBr | Br2
solvent | MeOH | 500 mL | CO | CH4O
product | 5-tert-Butyl-2-nitro-4-thiocyanato-phenylamine | C(C)(C)(C)C=1C(=CC(=C(C1)N)[N+](=O)[O-])SC#N | C11H13N3O2S
